US07553852B2
Method K: (S)-2-(5-chloro-2-nitro-benzoylamino)-butyric acid-tert-butyl ester
To a stirred solution of 5-chloro-2-nitro-benzoic acid (4.68 g) in anhydrous tetrahydrofuran (100 ml) at 0° C., was added (S)-2-amino-butyric acid-tert-butyl ester hydrochloric acid salt (5 g), HOBt (3.45 g), DMAP (2.98 g), followed by EDC (4.88 g) and diisopropylethylamine (3.30 g). The reaction mixture was stirred for 10 minutes then warmed to room temperature and stirred for 16 hours before concentration at reduced pressure. The resulting residue was partitioned between EtOAc (100 ml) and saturated sodium bicarbonate solution (100 ml), the organic layer separated and further washed with 1M hydrochloric acid and saturated brine solution, dried (MgSO4), filtered and concentrated to give the sub-title compound as a pale yellow oil (6.82 g, 68% yield). 1H NMR (400 MHz, CDCl3) δ 8.05 (1H, d), 7.55 (2H, m), 6.4 (1H, m) 4.7 (1H, m), 2.1 (1H, m), 1.95 (1H, m), 1.5 (9H, s), 1.0 (3H, t) ppm.

reactant | 5-chloro-2-nitro-benzoic acid | 4.68 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | (S)-2-amino-butyric acid-tert-butyl ester hydrochloric acid salt | 5 g | Cl.C(C)(C)(C)OC([C@H](CC)N)=O
reactant | HOBt | 3.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 3.30 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | DMAP | 2.98 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EDC | 4.88 g
product | (S)-2-(5-chloro-2-nitro-benzoylamino)-butyric acid-tert-butyl ester | 6.82 g, 68% yield | C(C)(C)(C)OC([C@H](CC)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O)=O | C15H19ClN2O5
